US07470715B2
A solution consisting of boron tribromide (114 mL of a 1 M solution in dichloromethane) and dichloromethane (100 mL) is cooled in an ice/salt/methanol bath to −10° C. and a solution consisting of 1-[3-(4-methoxy-phenyl)-4-phenyl-isoxazol-5-yl]-cyclopropanecarboxylic acid methyl ester (10 g) dichloromethane (150 mL) is added dropwise while the temperature is maintained at −10° C. over 1 hour. The reaction mixture is allowed to warm to 0° C. and stirred for 4 hours until all starting material is consumed. The solution is cooled to −10° C. and 5% sodium bicarbonate solution (250 mL) is added slowly by addition funnel while maintaining the temperature below 0° C. The reaction flask is removed from the cold bath and water added, the organic layer is separated, dried, and concentrated to give 1-[3-(4-hydroxy-phenyl)-4-phenyl-isoxazol-5-yl]-cyclopropanecarboxylic acid methyl ester (9.6 g.)

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | methanol | CO | CH4O
reactant | 1-[3-(4-methoxy-phenyl)-4-phenyl-isoxazol-5-yl]-cyclopropanecarboxylic acid methyl ester | 150 mL, 10 g | COC(=O)C1(CC1)C1=C(C(=NO1)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | C21H19NO4
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-[3-(4-hydroxy-phenyl)-4-phenyl-isoxazol-5-yl]-cyclopropanecarboxylic acid methyl ester | 9.6 g | COC(=O)C1(CC1)C1=C(C(=NO1)C1=CC=C(C=C1)O)C1=CC=CC=C1 | C20H17NO4
